US04795814
36 Milliliters of dichloromethane was added to 12 g of 4-[(1-ethoxy)ethoxy]cinnamyl alcohol, then 60 mg of anhydrous sodium acetate was added thereto. Under refluxing condition, 5 g of diketene was added dropwise to the reaction mixture, and 2 hours later, 0.42 g diketene was further added thereto, the whole reaction mixture was refluxed for 1.5 hours. After the reaction was completed, the dichloromethane was removed by evaporation under reduced pressure, and the residue thus obtained was stirred for 30 minutes with 27 ml of hexane and 1.2 g of activated carbon. The activated carbon was removed by filtration, and the filtrate was concentrated to obtain 15 g of 4-[(1-ethoxy)ethoxy]cinnamyl acetoacetate as in the form of an oily substance.

reactant | dichloromethane | ClCCl | CH2Cl2
reactant | 4-[(1-ethoxy)ethoxy]cinnamyl alcohol | 12 g | C(C)OCCOC1=CC=C(C=CCO)C=C1 | C13H18O3
reactant | diketene | 5 g | C=C1CC(=O)O1 | C4H4O2
reactant | diketene | 0.42 g | C=C1CC(=O)O1 | C4H4O2
catalyst | sodium acetate | 60 mg | C(C)(=O)[O-].[Na+]
solvent | hexane | 27 ml | CCCCCC | C6H14
product | 4-[(1-ethoxy)ethoxy]cinnamyl acetoacetate | 15 g | C(CC(=O)C)(=O)OCC=CC1=CC=C(C=C1)OCCOCC | C17H22O5
